US06703387B2
2.2 ml of 2M potassium hydroxide solution were added to a solution of 770 mg (2.41 mmol) of methyl (E)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]benzoate in 22 ml of methanol. The temperature was raised to 60° C. and the solution was stirred for 3 hours. A further 2 ml of 2M potassium hydroxide solution was added and the solution was stirred for a further 16 hours. The solvent was removed by evaporation and the residue dissolved in water and washed with diethyl ether. The aqueous layer was acidified with acetic acid and extracted three times with ethyl acetate. The organic phases were combined, dried over magnesium sulphate, filtered and evaporated to dryness. There was obtained (E)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]benzoic acid acetate as a red oil, MS: m/e 307.2 [M+H]+.

reactant | potassium hydroxide | 2M, 2.2 ml | [OH-].[K+]
reactant | methyl (E)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]benzoate | 2.41 mmol, 770 mg | CN1CCN=C(C2=C1C=CC=C2)/C=C/C2=CC=C(C(=O)OC)C=C2 | C20H20N2O2
reactant | potassium hydroxide | 2M, 2 ml | [OH-].[K+]
solvent | methanol | 22 ml | CO | CH4O
product | (E)-4-[2-(2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-5-yl)vinyl]benzoic acid acetate | C(C)(=O)O.CN1CCN=C(C2=C1C=CC=C2)/C=C/C2=CC=C(C(=O)O)C=C2 | InChI=1S/C19H18N2O2.C2H4O2/c1-21-13-12-20-17(16-4-2-3-5-18(16)21)11-8-14-6-9-15(10-7-14)19(22)23;1-2(3)4/h2-11H,12-13H2,1H3,(H,22,23);1H3,(H,3,4)/b11-8+;
